US07166746B2
To a stirred solution of 3.09 g (13.5 mmol) of DL-3,4-dichloromandelic acid, 3.0 g (13.5 mmol) of trans-4-(2-amino-cyclohexyl)-2-methoxy-phenol and 1.89 (13.5 mmol) of N,N-diisopropylethylamine in 30 ml DMF is added 6.0 g (13.5 mmol) of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate in one portion. The reaction mixture is then stirred at ambient temperature for about 2 hours and thereafter poured into 150 ml of aqueous saturated sodium chloride solution. The two-phase mixture is extracted with two 150 ml portions of ethyl acetate. The organic extract is concentrated under reduced pressure to a residue, which is subjected to column chromatography on silica gel, with 1:1 ethyl acetate/isohexane as the eluant yielding 2-(3,4-dichlorophenyl)-2-hydroxy-N-[trans-2-(4-hydroxy-3-methoxy-phenyl)-cyclohexyl]-acetamide.

reactant | 3,4-dichloromandelic acid | ClC=1C=C(C(C(=O)O)O)C=CC1Cl | C8H6Cl2O3
reactant | trans-4-(2-amino-cyclohexyl)-2-methoxy-phenol | 13.5 mmol, 3.0 g | N[C@H]1[C@@H](CCCC1)C1=CC(=C(C=C1)O)OC | C13H19NO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 13.5 mmol, 6.0 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(3,4-dichlorophenyl)-2-hydroxy-N-[trans-2-(4-hydroxy-3-methoxy-phenyl)-cyclohexyl]-acetamide | ClC=1C=C(C=CC1Cl)C(C(=O)N[C@H]1[C@@H](CCCC1)C1=CC(=C(C=C1)O)OC)O | C21H23Cl2NO4
